US05817830
Preparation of 2,5-Bis(2',2',3',3',4',4',4'-heptafluoro-1'-trimethylsiloxybutyl)pyrrole
Recrystallized 2,5-bis(2',2',3',3',4',4',4'-heptafluoro-1'-hydroxybutyl)pyrrole (0.5 mmol, 0.2316 g) was dissolved in 25 ml of dry THF and transferred to a cooled (0° C.) suspension of sodium hydride (1.0 mmol, 0.024 g) in 60 mL of THF. When hydrogen evolution ceased (after 1 hour) trimethylsilyl chloride (1 mmol, 0.109 g) was added by syringe. The mixture became cloudy and was stirred at room temperature for 1 hour before the solvent was removed in vacuo. The remaining residue was partitioned between 10% sodium bicarbonate solution and pentane. The organic layer was washed twice with water and dried over magnesium sulfate, filtered and evaporated to leave a colorless oil (0.204 g, 0.34 mmol, 67%). 1H NMR (CDCl3, 360 MHz) 8.68 (broad s, 1 H) 6.15 (d, 2 H, J=2.7 Hz); 5.13 (dd, 2 H, J1=18.8 Hz, J2=5.0 Hz); 0.03 (s, 18 H).

reactant | 2,5-bis(2',2',3',3',4',4',4'-heptafluoro-1'-hydroxybutyl)pyrrole | 0.5 mmol, 0.2316 g | FC(C(O)C=1NC(=CC1)C(C(C(C(F)(F)F)(F)F)(F)F)O)(C(C(F)(F)F)(F)F)F | C12H7F14NO2
reactant | sodium hydride | 1.0 mmol, 0.024 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | trimethylsilyl chloride | 1 mmol, 0.109 g | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 2,5-Bis(2',2',3',3',4',4',4'-heptafluoro-1'-trimethylsiloxybutyl)pyrrole | 0.34 mmol, 0.204 g, 67% | FC(C(O[Si](C)(C)C)C=1NC(=CC1)C(C(C(C(F)(F)F)(F)F)(F)F)O[Si](C)(C)C)(C(C(F)(F)F)(F)F)F | C18H23F14NO2Si2
